US04816452
d. Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(cyclohexyloxyimino)acetate
Ethyl 4-chloro-(Z)-2-(cyclohexyloxyimino)-3-oxobutyrate (0.68 g) was dissolved in ethanol (6 ml) and N,N-dimethylaniline (0.30 g) and thiourea (0.19 g) added with stirring. After 18 h the mixture was evaporated and the residue partitioned between dichloromethane and water. The organic layer was separated, washed with brine, dried (MgSO4) and evaporated. Purification by flash chromatography eluting with ethyl acetate/hexane gave the title compound as a cream solid (0.66 g, 90%). A sample was crystallised from cyclohexane, m.p. 133°-4° C.; νmax (CHCl3) 2940, 1730, 1605 cm-1 ; δH (CDCl3) 1.34 (3H, t), 1.3-2.0 (10H, br m), 4.3 (1H, br m), 4.36 (2H, q), 5.4 (2H, br s, exch D2O), and 6.68 (1H, s).

reactant | Ethyl 4-chloro-(Z)-2-(cyclohexyloxyimino)-3-oxobutyrate | 0.68 g | ClCC(/C(/C(=O)OCC)=N/OC1CCCCC1)=O | C12H18ClNO4
reactant | N,N-dimethylaniline | 0.30 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | thiourea | 0.19 g | NC(=S)N | CH4N2S
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(cyclohexyloxyimino)acetate | 0.66 g, 90% | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1CCCCC1 | C13H19N3O3S
